US06784192B2
Ethyl 2-(2-piperidyl)acetate
50 ml of ethyl 2-(2-pyridyl)acetate, 18.7 ml of acetic acid, 5 g of Pd—C (water-containing product) and 200 ml of ethanol were charged in an auto clave, and the mixture was stirred at 70° C. for 9 hours at a hydrogen pressure of 56 kg/cm2. The Pd—C was filtered off and ethanol was evaporated, to give 72.3 g of white crystals.

reactant | ethyl 2-(2-pyridyl)acetate | 50 ml | N1=C(C=CC=C1)CC(=O)OCC | C9H11NO2
reactant | acetic acid | 18.7 ml | C(C)(=O)O | C2H4O2
reactant | hydrogen | [H][H] | H2
catalyst | Pd—C | 5 g | [Pd] | Pd
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | Ethyl 2-(2-piperidyl)acetate | 72.3 g | N1C(CCCC1)CC(=O)OCC | C9H17NO2
